US05034417
A mixture of 5-acetyl-2-amino-2',4'-difluorobenzophenone (3.3 g), methanesulfonyl chloride (5.5 ml) and pyridine (1 ml) in benzene (30 ml) was refluxed for 4 hours. The reaction mixture was poured into ice-water (100 ml ) and extracted with ethyl acetate (100 ml). The extract was washed with an aqueous solution of sodium bicarbonate, dried and concentrated. The residue (5 g) was purified by column chromatography on silica gel (120 g) eluting with a mixture of toluene and ethyl acetate (20:1), and recrystallized from ethanol to afford yellow crystals of 4'-acetyl-2'-(2,4-difluorobenzoyl)methanesulfonanilide (1.5 g).

reactant | 5-acetyl-2-amino-2',4'-difluorobenzophenone | 3.3 g | C(C)(=O)C=1C=CC(=C(C(=O)C2=C(C=C(C=C2)F)F)C1)N | C15H11F2NO2
reactant | methanesulfonyl chloride | 5.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 4'-acetyl-2'-(2,4-difluorobenzoyl)methanesulfonanilide | 1.5 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)C(C1=C(C=C(C=C1)F)F)=O | C16H13F2NO4S
